US05146002
Synthesis of 1,3-bis(4,4-dimethyl-3-oxopentanoyl)benzene
In a 100 ml three-necked flask equipped with a mechanical stirrer, dropping funnel, reflux condenser, and a nitogen-inlet tube, 1.5 gm (38 mmol) of 60% sodium hydride, 3.6 gm (36 mmol) of pinacolone, 3.0 gm (15.5 mmol) of dimethyl isophthalate, and 30 ml of anhydrous tetrahydrofuran were mixed with stirring under nitrogen stream and refluxed with heating for 6 hours. After cooling the reaction mixture, 10 ml of 2N aqueous hydrochloric acid was added the product was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated to give a crude product. Recrystallization using hexane afforded 3.1 gm of the target compound as colorless crystals (yield: 61%).

reactant | sodium hydride | 38 mmol, 1.5 gm | [H-].[Na+]
reactant | pinacolone | 36 mmol, 3.6 gm | CC(C(C)(C)C)=O | C6H12O
reactant | dimethyl isophthalate | 15.5 mmol, 3.0 gm | C(C1=CC(C(=O)OC)=CC=C1)(=O)OC | C10H10O4
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1,3-bis(4,4-dimethyl-3-oxopentanoyl)benzene | 3.1 gm, yield: 61% | CC(C(CC(=O)C1=CC(=CC=C1)C(CC(C(C)(C)C)=O)=O)=O)(C)C | C20H26O4
